US05631372
1-benzoyl-4-fluoro-1,4-diazoniabicvclo[2.2.2]octane bis(tetrafluoroborate) 1,4-Diazabicyclo[2.2.2]octane N-oxide is prepared by the reaction of 1,4-diazabicyclo[2.2.2]octane with hydrogen peroxide as described by Farkas in J. Chem. Eng. Data (1968) 13, 278. 1,4-Diazabicyclo[2.2.2]octane N-oxide (12.8 g, 10 mmool) in THF (100 mL) is reacted with benzoyl chloride (14 g, 10 mmol) until the reaction is complete by TLC. The reaction is evaporated, diluted with acetonitrile (100 mL) and sodium tetrafluoroborate (40 g, 20 mmol) added. The solution is stirred overnight at room temperature and then filtered to remove all undissolved salts. The filtrate is evaporated to afford 1-benzoyl-4-aza-1-azoniabicyclo[2.2.2]octane tetrafluoroborate.

reactant | 1,4-diazabicyclo[2.2.2]octane | N12CCN(CC1)CC2 | C6H12N2
reactant | hydrogen peroxide | OO | H2O2
reactant | 1,4-Diazabicyclo[2.2.2]octane N-oxide | 12.8 g | N12CC[N+](CC1)(CC2)[O-] | C6H12N2O
reactant | benzoyl chloride | 10 mmol, 14 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium tetrafluoroborate | 20 mmol, 40 g | F[B-](F)(F)F.[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 1-benzoyl-4-aza-1-azoniabicyclo[2.2.2]octane tetrafluoroborate | F[B-](F)(F)F.C(C1=CC=CC=C1)(=O)[N+]12CCN(CC1)CC2 | InChI=1S/C13H17N2O.BF4/c16-13(12-4-2-1-3-5-12)15-9-6-14(7-10-15)8-11-15;2-1(3,4)5/h1-5H,6-11H2;/q+1;-1
